US03998966
To a mixture of 8 g. of sodium borohydride and 150 ml. of methanol, 23.5 g. of 7-fluoro-3-(methoxycarbonylmethyl)-1-tetralone are added. The mixture is diluted with 250 ml. of 2N hydrochloric acid after standing for four hours at 25° C; the aqueous mixture is then extracted with chloroform. The extracts are combined, washed with water to neutrality, dried over sodium sulfate, filtered, and evaporated to yield methyl 6-fluoro-4-hydroxy-1,2,3,4-tetrahydro-2-naphthylacetate. The latter compound is dehydrogenated by the process described in Part B of Example 2 to furnish methyl 6-fluoro-4-hydroxy-2-naphthylacetate.

reactant | sodium borohydride | [BH4-].[Na+]
reactant | 7-fluoro-3-(methoxycarbonylmethyl)-1-tetralone | FC1=CC=C2CC(CC(C2=C1)=O)CC(=O)OC | C13H13FO3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | CO | CH4O
product | methyl 6-fluoro-4-hydroxy-1,2,3,4-tetrahydro-2-naphthylacetate | FC=1C=C2C(CC(CC2=CC1)CC(=O)OC)O | C13H15FO3
